US04402961
4.55 ml of concentrated acetic acid are added to a solution containing 2.5 g of 2-phenyl-4-[2-(2-pyridyl)-ethyl]-quinoline in 250 ml of ethanol, then 0.5 g of 82% platinum oxide is added as catalyst. Hydrogenation is effected at 30° C., under a hydrogen pressure equal to the normal pressure for 6 hours, at the end of which time 700 ml of hydrogen have been absorbed. The catalyst is eliminated by filtration. The ethanol is evaporated under reduced pressure and the residue is taken up with 200 ml of water. The aqueous phase is made alkaline by means of concentrated ammonia, and extracted with methylene chloride. The organic phase is dried over magnesium sulfate and evaporated under reduced pressure. The residue obtained is fixed on a column of 200 g of silica and eluted with a 9/1 toluene-diethylamine mixture. 0.65 g are thus isolated of 2-phenyl-4-[2-(2-piperidyl)-ethyl]-quinoline in the form of an oil. This compound is dissolved in acetone and converted, by addition of hydrochloric acid, to its dihydrochloride, which melts at 200° C.

reactant | acetic acid | 4.55 ml | C(C)(=O)O | C2H4O2
reactant | 2-phenyl-4-[2-(2-pyridyl)-ethyl]-quinoline | 2.5 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)CCC1=NC=CC=C1 | C22H18N2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.5 g | [Pt]=O
product | 2-phenyl-4-[2-(2-piperidyl)-ethyl]-quinoline | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)CCC1NCCCC1 | C22H24N2
